US04328212
Into 1.5 l of a 95% methanol solution was suspended 16 g of neocarzinostatin powder. After adjusting the pH of the suspension with 1 N hydrochloric acid to pH 2.0, the suspension was stirred for 2 hours and then subjected to centrifugal separation. The supernatant was then concentrated and dried to 920 mg of crude powder of the NCS-C substance. The crude powder was subjected to Sephadex LH-20 chromatography in the same manner as in Example 3. The NCS-C substance was obtained in a powder form (yield: 105 mg).

reactant | neocarzinostatin | 16 g | CC1=CC(=CC=2C1=CC=CC2C(=O)O[C@@H]3C=C/4C#C[C@]5([C@H](O5)C#C/C=C4/[C@H]3O[C@@H]6[C@@H]([C@H]([C@H]([C@H](O6)C)O)O)NC)[C@H]7COC(=O)O7)OC | C35H33NO11
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methanol | CO | CH4O
product | NCS-C | C[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)O[C@H]\2[C@@H](C=C3/C2=C\C#C[C@@H]4[C@@](O4)(C#C3)C5COC(=O)O5)OC(=O)C6=C(C=CC7=C(C=C(C=C76)OC)C)O)NC)O)O | C35H33NO12
